US08486940B2
3-Fluoro-4-propoxybenzaldehyde was synthesized starting from 3-fluoro-4-hydroxybenzaldehyde (0.83 g, 5.95 mmol) and 1-iodopropane (1.16 ml, 11.9 mmol) according to reaction conditions described by Liou et al., J. Med. Chem. 2004, 47 (11), 2903.

reactant | 3-fluoro-4-hydroxybenzaldehyde | 5.95 mmol, 0.83 g | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | 1-iodopropane | 11.9 mmol, 1.16 ml | ICCC | C3H7I
product | 3-Fluoro-4-propoxybenzaldehyde | FC=1C=C(C=O)C=CC1OCCC | C10H11FO2
